US08497278B2
2-(6-Methyl-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-2H-[1,2,4]triazole-3-carboxylic acid methylamide (68)
Methyl 1-((6-methyl-2-p-tolylimidazo[1,2-a]pyridin-3-yl)methyl)-1H-1,2,4-triazole-5-carboxylate was treated with excess methylamine in methanol in a sealed tube at 80° C. for several hours until the reaction was completed as judged by TLC or LC analysis. Solvent was evaporated and the crude product was purified by chromatography (SiO2 column, eluted with 50% acetone). m/e+ 361 for C20H21N6O [M+H]+; 1H-NMR (300 MHz, CDCl3) δ 8.13 (d, J=0.6 Hz, 1H), 7.87 (d, J=8.1 Hz, 2H), 7.65 (s, 1H), 7.57 (d, J=9.3 Hz, 1H), 7.27 (d, J=8.1 Hz, 2H), 7.08 (dd, J=1.2, 9.3 Hz, 1H), 6.32 (s, 2H), 3.06 (d, J=5.1 Hz, 3H), 2.50 (bs, 1H), 2.41 (s, 3H), 2.31 (s, 3H) ppm; 13C-NMR (75 MHz, CDCl3, δ) 158.440, 150.38, 146.788, 146.587, 138.174, 131.289, 129.586, 129.413, 128.819, 128.612, 122.655, 122.094, 117.100, 113.447, 44.395, 26.393, 21.605, 18.714 ppm.

reactant | Methyl 1-((6-methyl-2-p-tolylimidazo[1,2-a]pyridin-3-yl)methyl)-1H-1,2,4-triazole-5-carboxylate | CC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)C)CN2N=CN=C2C(=O)OC | C20H19N5O2
reactant | methylamine | CN | CH5N
solvent | methanol | CO | CH4O
product | 2-(6-Methyl-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-2H-[1,2,4]triazole-3-carboxylic acid methylamide | CNC(=O)C=1N(N=CN1)CC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)C | C20H20N6O
